US04431653
The 4,5,6,7-tetrahydro-2[2-(4-pyridyl)ethyl]-1H-1,3-diazepine (1.9 g, 0.009 M) and PtO2 (0.25 g) in ethanol (20 ml) and 2 NHCl (15 ml) was reduced at 45 psig of hydrogen. After the hydrogenation, the solvent was removed and the residue was crystallized from ethanol-ether to give 1.5 g of 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]piperidine (60% yield) as dihydrochloride salt.

reactant | 4,5,6,7-tetrahydro-2[2-(4-pyridyl)ethyl]-1H-1,3-diazepine | 0.009 M, 1.9 g | N1=CC=C(C=C1)CCC=1NCCCCN1 | C12H17N3
reactant | hydrogen | [H][H] | H2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.25 g | O=[Pt]=O
product | 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]piperidine | 1.5 g, 60% yield | N1C(=NCCCC1)CCC1CCNCC1 | C12H23N3
